US06277990B1
To a suspension of HCl salt of 2-amino-6(5H)-phenanthridinone (3.4 g, 0.014 mol) in ethyl acetate (200 mL) was added saturated solution of sodium bicarbonate (200 mL), followed by addition of chloroacetyl chloride (5.6 mL, 0.07 mol). The reaction mixture was stirred at room temperature for 2 days. The solid that separated out was filtered and washed thoroughly with cold water. It was then dried under vacuum to give N-(6-oxo-5,6-dihydro-phenanthridin-2-yl)-chloroacetamide (3.35 gm, 85%).

reactant | HCl | Cl | ClH
reactant | 2-amino-6(5H)-phenanthridinone | 0.014 mol, 3.4 g | NC1=CC=2C3=CC=CC=C3C(NC2C=C1)=O | C13H10N2O
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
reactant | chloroacetyl chloride | 0.07 mol, 5.6 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | N-(6-oxo-5,6-dihydro-phenanthridin-2-yl)-chloroacetamide | 3.35 gm, 85% | O=C1NC=2C=CC(=CC2C2=CC=CC=C12)NC(CCl)=O | C15H11ClN2O2
